US04985590
1.31 g (3 mmol) of II-23 was mixed with 10 ml of tetrahydrofuran, 3 ml of toluene and 0.1 g of 2% Pd-carbon, and the mixture was subjected to catalytic hydrogenation in a hydrogen atmosphere. The reaction mixture was filtered to remove the catalyst and further treated and purified according to Example 21 to obtain 0.32 g (31% yield) of (+)-4-hydroxy-4'-(1-2's,3's-2-chloro-3-methylpentanoyl)ethyl)biphenyl. [α]D25 =+60° (c=1, CHCl3), m.p.=99°-100° C.

reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | hydrogen | [H][H] | H2
catalyst | Pd carbon | 0.1 g | [Pd].[C]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
